US04276304
645 mg of 2-methoxyphenylglyoxal hydrate are dissolved in one ml of dimethylsulfoxide, and a solution of 826 mg of α,α-dimethyl-3,4-dimethoxyphenethylamine in 1.5 ml of dimethylsulfoxide is added thereto. The mixture is stirred at 25° C. for one hour, whereby a solution of α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-methoxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-methoxyphenylglyoxal hydrate | 645 mg | O.COC1=C(C=CC=C1)C(=O)C=O
reactant | α,α-dimethyl-3,4-dimethoxyphenethylamine | 826 mg | CC(CC1=CC(=C(C=C1)OC)OC)(C)N | C12H19NO2
reactant | dimethylsulfoxide | one ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | α-(α,α-dimethyl-3,4-dimethoxyphenethylimino)-2-methoxyacetophenone | CC(CC1=CC(=C(C=C1)OC)OC)(C)N=C(C(=O)C1=CC=CC=C1)OC | C21H25NO4
